US09023849B2
Methyl 2-{3-[1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate
584 mg (3.103 mmol) of dimethyl 2,2-dimethyl-3-oxobutanedioate were initially charged in 12 ml of ethanol and heated to reflux. Subsequently, 590 mg (2.069 mmol) of 1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide suspended in 12 ml of ethanol were added and the mixture was boiled under reflux overnight. After cooling, the mixture was filtered, the filtercake was washed with a little ethanol and the filtrate was concentrated. The residue was stirred with 10 ml of acetonitrile. 188 mg of the target compound were obtained (purity 93%; 20% of theory).

reactant | dimethyl 2,2-dimethyl-3-oxobutanedioate | 3.103 mmol, 584 mg | CC(C(=O)OC)(C(C(=O)OC)=O)C | C8H12O5
reactant | 1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | 2.069 mmol, 590 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)C(NN)=N)C=CC=C1 | C13H12FN7
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | Methyl 2-{3-[1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 188 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1 | C20H18FN7O3
